US07199147B2
To a solution of the 1H-indazole-5-carboxylic acid (200 mg, 1.23 mmol) obtained in Reference Example 1 in N,N-dimethylformamide (15 ml) were added trans-tert-butyl 4-aminocyclohexylcarbamate (317 mg, 1.48 mmol), triethylamine (0.172 ml, 1.23 mmol), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide monohydrochloride (355 mg, 1.85 mmol) and hydroxybenzotriazole (200 mg, 1.48 mmol), and the resulting mixture was stirred at room temperature for 1 hour. After the reaction solution was heated at 50° C. for 1 hour, water was added thereto at 0° C. The resulting solid was filtered and then dried under reduced pressure to obtain trans-tert-butyl-4-[(1H-indazol-5-ylcarbonyl)amino]cyclohexylcarbamate (435 mg, 98%).

reactant | 1H-indazole-5-carboxylic acid | 1.23 mmol, 200 mg | N1N=CC2=CC(=CC=C12)C(=O)O | C8H6N2O2
reactant | trans-tert-butyl 4-aminocyclohexylcarbamate | 1.48 mmol, 317 mg | N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | triethylamine | 1.23 mmol, 0.172 ml | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide monohydrochloride | 1.85 mmol, 355 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenzotriazole | 1.48 mmol, 200 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | trans-tert-butyl-4-[(1H-indazol-5-ylcarbonyl)amino]cyclohexylcarbamate | 435 mg, 98% | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)NC(=O)C=1C=C2C=NNC2=CC1)=O | C19H26N4O3
